Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lamictal / methimazole
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Ms. ___ is a ___ woman with carcinoma of unknown
primary, HCV s/p Harvoni c/b Childs A cirrhosis, 
hyperthyroidism.
She now presents with fever.

She last received received FOLFOX C4D15 on ___. Due to
persistent cytopenias and disease progression, plan has been to
switch to new treatment at some point.

On ___ she called with new fever and fatigue. She also had 
nausea
without vomiting. She has non-productive cough. The evening 
prior
she had bilateral lower abdominal pain as well. She was
recommended to go to the ER for further evaluation.

In the ED, vital signs notable for:
T 100, HR 101, BP 186/109, RR16 100% RA

She received 2L LR and 4mg ondansetron.

At time of arrival, she reports abdominal pain that is different
from her usual abdominal discomfort. Her abdomen feels "icky" 
and
she is nauseous.
 
Past Medical History:
- HCV c/b hepatocellular carcinoma, Childs ___ class A
- Hyperthyroidism, for which she is on propylthiouracil x
approximately ___
- Osteoporosis
- History of brain hemangioma resected in ___ ___ at
___
-Seizure Disorder: see note, ___: followed by Neurology ( 
Dr. ___ at ___ for continued seizure disorder.
-Colonic Adenoma x2, resected (see colonoscopy notes, ___, 
___
-Diverticulosis (See colonoscopy note, ___
-Internal hemorrhoids (See colonoscopy note, ___
-Schatzki Ring, broken via endoscopy x2, ___
-Diaphragmatic hernia (see endoscopy note, ___
-Umbillical hernia, noted ___
-Extrarenal pelvis in R Kidney (___)
- Tubal ligation, ___
-Gonorrhea ___
-PID, ___

 
Social History:
___
Family History:
Mother-diabetes ___ and hypertension
Sister- deceased, pancreatic cancer

 
Physical Exam:
ADMISSION EXAM
==============
Vital Signs:  Reviewed in POE

General appearance: Generally well appearing, in no acute
distress. 
Head, eyes, ears, nose, and throat: Pupils round and equally
reactive to light. Oropharynx clear with moist mucous membranes.
Lymph: No palpable cervical or supraclavicular lymphadenopathy.
Cardiovascular: Regular rate and rhythm, S1, S2, no audible
murmurs.
Respiratory: Lungs clear to auscultation bilaterally.
Abdomen: Abdomen is tender most prominently in RUQ. No rebound
tenderness. Non distended.
Extremities: Warm, without edema.
Neurologic: Alert and oriented. Grossly normal strength,
coordination, and gait.
Skin: No rashes.

DISCHARGE EXAM
=================
PHYSICAL EXAMINATION:
24 HR Data (last updated ___ @ 007)
    Temp: 99.0 (Tm 99.2), BP: 160/66 (146-160/66-90), HR: 77
(77-91), RR: 18, O2 sat: 96% (96-98), O2 delivery: RA  
HEENT: PERRL, OP clear, MMM
Lymph: supple, normal range of motion
Cardiovascular: RRR, normal S1/S2, no m/r/g
Respiratory: not in respiratory distress, CTAB, no crackles,
wheezes, rhonchi
Abdomen: soft, no TTP in RUQ, ND, no fluid wave, no organomegaly
Extremities: wwp, no edema
Neurologic: A&Ox3, Grossly normal strength, coordination, and
gait.
Skin: No rashes or lesions

 
Pertinent Results:
ADMISSION LABS
==============

___ 08:35PM BLOOD WBC-8.6 RBC-4.28 Hgb-13.2 Hct-41.0 MCV-96 
MCH-30.8 MCHC-32.2 RDW-17.0* RDWSD-59.3* Plt ___
___ 11:15AM BLOOD WBC-12.4* RBC-3.98 Hgb-12.4 Hct-37.8 
MCV-95 MCH-31.2 MCHC-32.8 RDW-16.2* RDWSD-57.1* Plt Ct-98*
___ 08:35PM BLOOD Neuts-68.8 Lymphs-11.4* Monos-18.2* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-5.92 AbsLymp-0.98* 
AbsMono-1.57* AbsEos-0.01* AbsBaso-0.03
___ 11:15AM BLOOD Neuts-71.2* Lymphs-10.5* Monos-17.2* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-8.85* AbsLymp-1.31 
AbsMono-2.14* AbsEos-0.01* AbsBaso-0.03
___ 08:35PM BLOOD Glucose-147* UreaN-7 Creat-0.6 Na-132* 
K-3.7 Cl-96 HCO3-19* AnGap-17
___ 11:15AM BLOOD Glucose-142* UreaN-7 Creat-0.5 Na-131* 
K-3.4* Cl-96 HCO3-20* AnGap-15
___ 08:35PM BLOOD ALT-22 AST-44* AlkPhos-138* TotBili-1.3 
DirBili-0.3 IndBili-1.0
___ 11:15AM BLOOD ALT-16 AST-25 LD(LDH)-716* AlkPhos-111* 
TotBili-1.3
___ 08:35PM BLOOD Albumin-4.5
___ 11:15AM BLOOD Calcium-9.4 Phos-2.4* Mg-1.5*
___ 08:48PM BLOOD Lactate-1.5

DISCHARGE LABS
================

___ 04:14AM BLOOD WBC-8.1 RBC-3.22* Hgb-9.9* Hct-30.0* 
MCV-93 MCH-30.7 MCHC-33.0 RDW-15.3 RDWSD-52.9* Plt ___
___ 04:47AM BLOOD Neuts-64.1 Lymphs-18.5* Monos-15.8* 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-5.72 AbsLymp-1.65 
AbsMono-1.41* AbsEos-0.03* AbsBaso-0.04
___ 04:14AM BLOOD Plt ___
___ 04:14AM BLOOD ___ PTT-37.0* ___
___ 04:14AM BLOOD Glucose-83 UreaN-10 Creat-0.5 Na-131* 
K-3.1* Cl-97 HCO3-22 AnGap-12
___ 04:47AM BLOOD Glucose-84 UreaN-8 Creat-0.5 Na-134* 
K-3.5 Cl-101 HCO3-21* AnGap-12
___ 04:14AM BLOOD ALT-9 AST-18 LD(___)-314* AlkPhos-89 
TotBili-0.6
___ 04:47AM BLOOD ALT-11 AST-16 LD(___)-374* AlkPhos-85 
TotBili-1.0
___ 04:14AM BLOOD Calcium-8.3* Phos-3.0 Mg-1.7 Iron-29*
___ 04:14AM BLOOD calTIBC-213* VitB12-1478* Ferritn-1005* 
TRF-164*

IMAGING
=========

RUQUS ___
IMPRESSION: 
  
  
1. Large, soft tissue lesion centered around the porta hepatis, 
with extension 
into the main portal vein, which does not demonstrate definite 
flow.  This is 
better assessed on the prior CT. 
2. Enlarged node adjacent to the pancreatic head, as seen on 
prior CT, 
measuring up to 3.5 cm. 
3. Moderate sludge within the gallbladder, without evidence of 
stones. 

MRCP ___
IMPRESSION: 
  
  
1. Redemonstration of a large mass centered with the porta 
hepatis which 
infiltrates and expands the main portal vein and the 
intrahepatic portal 
veins, not significantly changed compared with CT ___, 
but enlarged 
since  ___. 
2. No significant change in degree of mild to moderate 
intrahepatic biliary 
duct dilatation due to mass effect at the porta hepatis. 
3. Intrahepatic peribiliary enhancement, compatible with 
cholangitis.  No 
abscess. 
4. No evidence of cholecystitis. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with carcinoma of unknown 
primary, hepatobiliary in origin, HCV s/p Harvoni c/b Childs A 
cirrhosis, hyperthyroidism who presented with fever and RUQ pain 
c/f ascending cholangitis vs cholecystitis.

TRANSITIONAL ISSUES
===================
[] Patient on 7 day course of cefpedox/flagyl. Last day ___.
[] Discharge Hgb 9.9 on the day of discharge. Will follow-up on 
___ will cbc re-check.

ACUTE ISSUES
============
# Fever
# Leukocytosis
# Suspected cholangitis vs cholecystitis
She presented with fever, fatigue and abdominal pain. This was 
concerning for an infectious etiology, possibly cholangitis 
given her hx of ?hepatic carcinoma or cholecystitis. Fever could 
also be seen with cancer-associated thrombosis though there were 
no clear localizing signs to suggest this diagnosis. She had a 
leukocytosis to 12 which normalized by the time of discharge. 
She had a rising total bilirubin, which was thought to be iso 
intrahepatic biliary obstruction causing a possible infection. 
She was started on empiric ceftriaxone/flagyl. A RUQ US (___) 
showed a large soft-tissue ___ hepatis lesion extending 
into portal vein consistent with known malignancy. There were no 
signs of infection. An MRCP was then performed on ___ and showed 
intrahepatic peribiliary enhancement which was "compatible with 
cholangitis". By HD3 she was feeling better with no abdominal 
pain and she remained afebrile. She was transitioned to PO 
cefpedoxime/flagyl and discharged to finish a ___arcinoma of unknown primary
She had previously received FOLFOX C4D15 on ___. Due to 
persistent cytopenias and disease progression, the plan was to 
switch to new treatment at some point, possible lenvatinib. MRCP 
on ___ showed unchanged hepatic lesion with infiltration into 
the portal vein from prior CT on ___. She will have 
follow-up on ___ in ___ clinic. She was going to see 
Radiation Oncology on ___ but was unable to attend that 
appointment as she was hospitalized. She was seen by RadOnc 
during this hospitalization and will see them as an outpatient 
after discharge.

# Anemia
Pt was noted to have a down-trending hemoglobin to 9.9 (down 
from ___ on admission). Potentially there is an element of 
hemodilution however we have instructed the patient to have her 
labs checked on ___. Iron and B12 studies pending at the time of 
discharge. 

# Pain
She continued on her home oxycodone 5mg q4h PRN. Her abdominal 
pain improved during this admission.

# HTN
Her SBP was in the high 180s-190s upon admission in the setting 
of not being on her home anti-hypertensive and she remained 
asymptomatic. This was presumably in the setting of infection 
and pain. She continued on her lisinopril and amlodipine and her 
SBPs improved to 140s upon discharge.

# Osteoporosis
She continued on her weekly alendronate.

# Code status: Full presumed
# HCP: ___ (daughter) / p ___

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QTUES 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO QID:PRN heartburn 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
7. Lisinopril 20 mg PO DAILY 
8. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO/NG Q12H Duration: 5 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO TID Duration: 5 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*15 Tablet Refills:*0 
4.  Alendronate Sodium 70 mg PO QTUES  
5.  Aspirin 81 mg PO DAILY  
6.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
7.  Lisinopril 20 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
10.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
11.  Vitamin D 1000 UNIT PO DAILY  
12.Outpatient Lab Work
Please draw CBC
D64.9 Anemia
Please send results to ___ MD 
Fax: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=======================
Suspected cholangitis 

SECONDARY DIAGNOSIS
=======================
Carcinoma of unknown primary
Hypertension
Childs A cirrhosis
Chronic pain
Osteoporosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you here at ___ 
___!

WHY WAS I IN THE HOSPITAL?
===================================
- You came to the hospital because you were experiencing fevers, 
abdominal pain, nausea and fatigue.

WHAT HAPPENED IN THE HOSPITAL?
===================================
- You had tests done that showed that you may have had an 
infection of the bile ducts in the liver. 
- You were given intravenous fluids while you could not eat. 
- You were started on intravenous antibiotics that were later 
switched to oral antibiotics.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
===================================
- You will be leaving with antibiotics. Please take these 
medications as prescribed for the full duration through ___.
- You will have follow-up appointments with your primary care 
physician and oncologist. Please attend these appointments.
- You will have an appointment to have bloodwork drawn. Please 
go the lab on ___.
- If you have a return of your symptoms, please reach out to 
your healthcare provider.
- Radiation Oncology will be calling you to arrange an 
appointment for you for early next week because you missed the 
appointment on ___.

We wish you all the best!

Your ___ Care team
 
Followup Instructions:
___